US06855710B2
c) (Z)-3-[1-(3-carboxy-phenylamino)-1-phenyl-methylidene]-2-indolinone
Prepared analogously to Example 2c from 1-benzoyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone and ethyl 3-aminobenzoate and subsequent total saponification with sodium hydroxide solution in methanol.

reactant | 1-benzoyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone | C(C1=CC=CC=C1)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)Cl)=O | C22H14ClNO2
reactant | ethyl 3-aminobenzoate | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | (Z)-3-[1-(3-carboxy-phenylamino)-1-phenyl-methylidene]-2-indolinone | C(=O)(O)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H16N2O3
